US06350913B1
2-Methoxy-5-cyclopentyloxybenzaldehyde (2a-2)
5.45 g of potassium carbonate (39.4 mmol) and 4.2 ml of bromocyclopentane (39.4 mmol) are added to a solution of 4 g of 5-hydroxy-2-methoxybenzaidehyde (26.3 mmol) in 27 ml of acetonitrile. The mixture is stirred for 16 hours at 80° C. and is then poured into ice-cold water and extracted with ether, and the organic phase is washed with normal aqueous sodium hydroxide solution and then with saturated aqueous sodium chloride solution. The organic phase is dried over magnesium sulfate and filtered, and the solvent is evaporated off under vacuum. The title product is isolated by bulb-to-bulb oven distillation (T=200° C., P=10 mbar). 4.13 g of a pale yellow oil are obtained:

reactant | potassium carbonate | 39.4 mmol, 5.45 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromocyclopentane | 39.4 mmol, 4.2 ml | BrC1CCCC1 | C5H9Br
reactant | 5-hydroxy-2-methoxybenzaidehyde | 26.3 mmol, 4 g | OC=1C=CC(=C(C=O)C1)OC | C8H8O3
solvent | acetonitrile | 27 ml | C(C)#N | C2H3N
product | 2-Methoxy-5-cyclopentyloxybenzaldehyde | COC1=C(C=O)C=C(C=C1)OC1CCCC1 | C13H16O3
